US06803484B2
A 500 mL three necked round bottom flask equipped with a mechanical stirrer, thermometer and an addition funnel is charged with (2R)-2-(4-nitrophenyl)propylamine (11.75 g, 65.21 mmol), methylene chloride (150.0 mL) and triethylamine (18.2 mL, 130.4 mmol). To this solution at 0° C. was added isopropylsulfonyl chloride (8.92 mL, 63.9 mmol) over a period of 20 minutes. Reaction was then stirred to room temperature overnight, then quenched with 1N HCl (150.0 mL). The lower organic layer is separated and dried with anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to afford [(2R)-2-(4-nitrophenyl)propyl][(methylethyl)sulfonyl]amine (14.11 g, 97%) as an oil; 1H nmr (CDCl3, 300 MHz) δ 1.26 (d, 3H, J=6.7 Hz), 1.31 (d, 6H), 3.06 (m, 1H), 3.30 (m, 1H), 4.25 (broad triplet, 1H), 7.38 (d, 2H), 8.10 (2H); 13C nmr (CDCl3, 300 MHz) δ 16.75, 18.95, 41.29, 50.15, 53.85, 124.22, 128.52, 151.26.

reactant | (2R)-2-(4-nitrophenyl)propylamine | 65.21 mmol, 11.75 g | [N+](=O)([O-])C1=CC=C(C=C1)[C@H](CN)C | C9H12N2O2
reactant | triethylamine | 130.4 mmol, 18.2 mL | C(C)N(CC)CC | C6H15N
reactant | isopropylsulfonyl chloride | 63.9 mmol, 8.92 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | methylene chloride | 150.0 mL | C(Cl)Cl | CH2Cl2
product | [(2R)-2-(4-nitrophenyl)propyl][(methylethyl)sulfonyl]amine | 14.11 g, 97% | [N+](=O)([O-])C1=CC=C(C=C1)[C@H](CNS(=O)(=O)C(C)C)C | C12H18N2O4S
